US06482943B1
Boc-Leu-β-Lapachone
A solution of 2.820 g (12.20 mmol) of Boc-Leu and 1.976 g (12.19 nmmol) of 1,1-carbonyldiimidazole in 33 mL of DMF was stirred at room temperature for 20 min. To the solution was added 2.100 g (8.130 nmol) of 3-hydroxy-β-lapachone followed by 1.6 mL (10.70 mmol) of DBU. After stirring at room temperature for 5 hr, the reaction mixture was partitioned between 200 mL of water and 200 mL of CHCl3. The aqueous phase was washed with CHCl3 (4×50 mL). The CHCl3 extracts were combined, dried with MgSO4, and evaporated to dryness. Column chromatography on silica gel with 2% MeOH in CH2Cl2 afforded 2.038 g (53%) of quinone as an orange glassy solid (and mixture of two diastereomers): Rf=0.45 (5% MeOH in CH2Cl2); 1H NMR (250 MHz, acetone-d6, TMS) δ8.1-8.0 (m, 1H), 8.0-7.9 (m, 1H), 7.9-7.8 (m, 1H), 7.7-7.6 (m, 1H), 6.34 (br d, NH), 5.2-5.1 (m, 1H), 4.2-4.1 (m, 1H), 2.9-2.8 (m, 1H), 2.7-2.5 (m, 1H), 1.8-1.6 (m, 3H), 1.56 (s, 1.5H), 1.53 (s, 3H), 1.52 (s, 1.5H), 1.34 (s, 4.5H), 1.33 (s, 4.5Hd), 0.91 (d, J=7.0Hz, 1.5H), 0.88 (d, J=6.7 Hz, 1.5H), 0.84 (d, J=6.3 Hz, 1.5H), 0.82 (d, J=6.1 Hz, 1.5H).

reactant | Boc-Leu | 12.20 mmol, 2.820 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | 3-hydroxy-β-lapachone | 8.130 nmol, 2.100 g | CC1(C(CC2=C(O1)C3=CC=CC=C3C(=O)C2=O)O)C | C15H14O4
reactant | DBU | 10.70 mmol, 1.6 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | MeOH | CO | CH4O
solvent | DMF | 33 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Boc-Leu β-Lapachone | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C.CC1(CCC2=C(O1)C=3C=CC=CC3C(=O)C2=O)C | InChI=1S/C15H14O3.C11H21NO4/c1-15(2)8-7-11-13(17)12(16)9-5-3-4-6-10(9)14(11)18-15;1-7(2)6-8(9(13)14)12-10(15)16-11(3,4)5/h3-6H,7-8H2,1-2H3;7-8H,6H2,1-5H3,(H,12,15)(H,13,14)/t;8-/m.0/s1
